US05849739
3-(N-Methylpyrrolidin-3-yl)-5-(pyrimid-5-yl)-1H-indole
A mixture of 5-bromo-3-(N-methylpyrrolidin-3-yl)-1 H-indole (0.450 g, 1.86 mmol), 5-trimethylstannylpyrimidine (0.518 g, 1.86 mmol), bis(triphenylphosphine)palladium(II) chloride (0.100 g), triethylamine (0.84 mL, 6.03 mmol, 3.2 eq), lithium chloride (0.254 g), and 2,6-di-tert-butyl-4-methylphenol (3.0 g) in anhydrous N,N-dimethylformamide (8 mL) was heated at reflux under nitrogen for 4 hours. The resulting reaction mixture was evaporated under reduced pressure, and the residue was column chromatographed using silica gel (approximately 25 g) and elution with 9:1:0.1 [methylene chloride/methanol/ammonium hydroxide] afforded the title compound (0.089 g, 0.32 mmol, 17%) as an off-white solid: mp, 140.0°-143.0° C.; TLC Rf =0.20 in 9:1:0.1 [methylone chloride/methanol/ammonium hydroxide]; 1H NMR (CD3OD) δ 9.05 (s, 2 H), 9.03 (s, 1 H), 7.87 (d, J=1.1 Hz, 1 H), 7.47 (d, J=8.4 Hz, 1 H), 7.39 (dd, J=1.6 and 8.5 Hz, 1 H), 7.16 (s, 1 H), 4.90 (s, 1 exchangeable H), 3.78-3.66 (m, 1 H), 3.16 (t, J=8.7 Hz, 1 H), 2.92-2.84 (m, 1 H), 2.72-2.59 (m, 2 H), 2.42 (s, 3 H), 2.42-2.33 (m, 1 H), 2.10-1.99 (m, 1 H); 13C NMR (CD3 OD) d 156.6, 155.9, 138.9, 137.7, 129.0, 125.4,123.2, 121.4, 119.7, 118.7, 113.6, 63.5, 57.1, 42.6, 36.3, 33.2; FAB LRMS (m/z, relative intensity) 279 ([MH]+, 100); HRMS calculated for C17H18N4 278.1533, found 278.1520.

reactant | 5-bromo-3-(N-methylpyrrolidin-3-yl)-1 H-indole | 1.86 mmol, 0.450 g | BrC=1C=C2C(=CNC2=CC1)C1CN(CC1)C | C13H15BrN2
reactant | 5-trimethylstannylpyrimidine | 1.86 mmol, 0.518 g | C[Sn](C=1C=NC=NC1)(C)C
reactant | triethylamine | 6.03 mmol, 0.84 mL, 3.2 eq | C(C)N(CC)CC | C6H15N
reactant | lithium chloride | 0.254 g | [Cl-].[Li+]
reactant | 2,6-di-tert-butyl-4-methylphenol | 3.0 g | C(C)(C)(C)C1=C(C(=CC(=C1)C)C(C)(C)C)O | C15H24O
solvent | N,N-dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.100 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 3-(N-Methylpyrrolidin-3-yl)-5-(pyrimid-5-yl)-1H-indole | 0.32 mmol, 0.089 g, 17% | CN1CC(CC1)C1=CNC2=CC=C(C=C12)C=1C=NC=NC1 | C17H18N4
